US03944409
A mixture of 5-methylsulfonyl-1,3,4-thiadiazol-2-yl isocyanate dimer (0.05 mole), the dimethyl acetal of 2-methyl-aminoacetaldehyde (0.1 mole) and benzene (60 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and reflux condenser. The reaction mixture is heated at reflux for a period of about 15 minutes. After this time the mixture is stripped of benzene under reduced pressure to yield a solid product as the residue. The residue is then recrystallized to yield the desired product dimethyl acetal of 2-[1-methyl-3-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)ureido]acetaldehyde.

reactant | 5-methylsulfonyl-1,3,4-thiadiazol-2-yl isocyanate | CS(=O)(=O)C1=NN=C(S1)N=C=O | C4H3N3O3S2
reactant | 2-methyl-aminoacetaldehyde | 0.1 mole | CC(C=O)N | C3H7NO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 2-[1-methyl-3-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)ureido]acetaldehyde | CN(C(=O)NC=1SC(=NN1)S(=O)(=O)C)CC=O | C7H10N4O4S2
